US07816391B2
tert-butyl 5-chloro-1-[4-(methoxycarbonylmethyl)phenyl]pyrazole-4-carboxylate (Intermediate#37) (767 mg, 2.19 mmol) was dissolved in butyronitrile (10 mL). Potassium carbonate (906 mg, 6.57 mmol) and propanethiol (284 μL, 2.74 mmol) were added and the mixture heated at 90° C. for 18 h. The reaction mixture was cooled to ambient and ethyl acetate (50 mL) was added. The mixture was washed with water (4×25 mL), dried (MgSO4) and evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel (elution gradient 0-25% EtOAc in isohexane) to afford tert-butyl 1-[4-(methoxycarbonylmethyl)phenyl]-5-propylsulfanyl-pyrazole-4-carboxylate as a yellow oil. (527 mg, 62%).

reactant | tert-butyl 5-chloro-1-[4-(methoxycarbonylmethyl)phenyl]pyrazole-4-carboxylate | 2.19 mmol, 767 mg | ClC1=C(C=NN1C1=CC=C(C=C1)CC(=O)OC)C(=O)OC(C)(C)C | C17H19ClN2O4
reactant | Potassium carbonate | 6.57 mmol, 906 mg | C([O-])([O-])=O.[K+].[K+]
reactant | propanethiol | 2.74 mmol, 284 μL | C(CC)S | C3H8S
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | butyronitrile | 10 mL | C(CCC)#N | C4H7N
product | tert-butyl 1-[4-(methoxycarbonylmethyl)phenyl]-5-propylsulfanyl-pyrazole-4-carboxylate | COC(=O)CC1=CC=C(C=C1)N1N=CC(=C1SCCC)C(=O)OC(C)(C)C | C20H26N2O4S
